US07166731B2
One equivalent of n-butyl lithium was added to a solution in which 7.038 g (34.3 mmol) of 2-bromo-3-methoxy-1,3-dimethyl-cyclopentene compound prepared in the example 3 was dissolved in 38 ml of ether at −25° C. nitrogen atmosphere. When white solid was precipitated, the temperature was elevated to 10° C. and the reaction was continued for further 10 minutes. The temperature was lowered to −25° C. and the fulvene compound prepared in the example 2 was added. Completion of reaction is determined by the development of yellow color of the reaction mixture. 50 ml of water was added to the reaction mixture and the solvent was removed using the rotatory evaporator. 50 ml of 2N HCl solution was added to the organic layer extracted with 50 ml of ethyl acetate, and the resulting mixture was vigorously shaked for 2 minutes. Water layer was removed by layer separation and the organic layer was neutralized with 50 ml of a saturated sodium bicarbonate solution. Isolated organic layer was dried over magnesium sulfate, and then the vacuum distillation was preformed to give 4.17 g of yellow 2,2′-methylenebis(1,3-dimethyl-1,3-cyclopentadiene) compound. Yield: 61%.

reactant | n-butyl lithium | One equivalent | C(CCC)[Li]
reactant | 2-bromo-3-methoxy-1,3-dimethyl-cyclopentene | 34.3 mmol, 7.038 g | BrC1=C(CCC1(C)OC)C | C8H13BrO
reactant | water | 50 ml | O | H2O
solvent | ether | 38 ml | CCOCC | C4H10O
product | 2,2′-methylenebis(1,3-dimethyl-1,3-cyclopentadiene) | 4.17 g, Yield: 61% | C(C1=C(CC=C1C)C)C1=C(CC=C1C)C | C15H20
